US07745641B2
In a similar manner to Step 2 of Example 16, 3-methoxymethoxy-4-dimethoxymethyl-N-(1-methyl-1-phenylethyl)benzamide (3.61 g, 9.67 mmol) was dissolved in THF (100 mL), and the solution was treated with TMEDA (4.70 mL, 31.0 mmol), sec-butyl lithium-hexane solution (1.03 mol/L, 30.0 mL, 30.9 mmol) and DMF (1.65 mL, 21.3 mmol), followed by purification by slurry using chloroform and hexane to obtain 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (2.95 g, yield 85%).

reactant | 3-methoxymethoxy-4-dimethoxymethyl-N-(1-methyl-1-phenylethyl)benzamide | 9.67 mmol, 3.61 g | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1C(OC)OC | C21H27NO5
reactant | TMEDA | 31.0 mmol, 4.70 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 21.3 mmol, 1.65 mL | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-dimethoxymethyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 2.95 g, yield 85% | COCOC1=C2C(N(C(C2=CC=C1C(OC)OC)=O)C(C)(C1=CC=CC=C1)C)O | C22H27NO6
